US04561882
Preparation of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-benzoyloxypentanoate
2.5 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate were refluxed with 1.2 min. of benzoyl chloride in 60 ml of methylene chloride in the presence of 1.3 ml of triethylamine for 1(1/2) hours. The product was diluted with methylene chloride washed with water, 1M HCl and brine and dried over MgSO4. The product was purified by silica gel chromatography (total yield 92%) and was identified as a mixture of two stereoisomers of the above ethyl benzoyloxypentanoate.

reactant | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-hydroxypentanoate | 2.5 g | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)O)C)C=C2)C=C1)(F)F | C20H21F3O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-3-benzoyloxypentanoate | yield 92% | FC(C1=CC=C(OC2=CC=C(OC(C(CC(=O)OCC)OC(C3=CC=CC=C3)=O)C)C=C2)C=C1)(F)F | C27H25F3O6
